US05112969
A cyano glycidic acid ester compound can be prepared by reaction of an alkyl haloester and a cyano-aldehyde in the presence of an alkali metal alkoxide; an amino-acid ester cyano compound can be prepared by reaction of the cyano glycidic acid ester compound and an attachable amino compound, and a cyclic amido-carbonyl cyano compound can be prepared by contact of the amino-acid ester cyano compound in a liquid medium with a heterogeneous acidic ion-exchange substance. For example, reaction of 4-cyanobenzaldehyde and methyl chloroacetate in the presence of sodium methoxide in methanol, followed by ice/acetic acid neutralization, prepares trans-3-(4-cyanophenyl)glycidic acid, methyl ester, which is reacted in toluene with 2-aminothiophenol to yield 2-hydroxy-3-(2-aminophenylthio)-3-(4-cyanophenyl)propionic acid, methyl ester, threo form, which is cyclized in an aqueous mixture into cis-2-(4-cyanophenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one by employing a sulfonated polystyrenedivinylbenzene ion-exchange resin in its acid form, e.g., Dowex 50X4-400, at cyclization yields exceeding 70 percent of theory. Compounds of this invention are useful pharmaceuticals.

reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-3-(2-aminophenylthio)-3-(4-cyanophenyl)propionic acid, methyl ester | OC(C(=O)OC)C(C1=CC=C(C=C1)C#N)SC1=C(C=CC=C1)N | C17H16N2O3S
